US08633173B2
(2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-phenyl)-amine was prepared from 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine (234.0 mg, 1.007 mmol) and 2-methanesulfonyl-phenylamine; hydrochloride (220.0 mg, 1.059 mmol) with 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (105.0 mg, 0.1815 mmol) as the ligand in a manner analogous to Step 2d. The reaction product was isolated as a pale yellow solid (0.115 g, 35%). MP=180-182° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.52 (s, 1H), 8.18 (d, J=6.7 Hz, 1H), 8.00 (d, J=8.0 Hz, 1H), 7.60-7.54 (m, 1H), 7.51 (d, J=8.2, 1H), 7.34 (d, J=7.7 Hz, 1H), 7.18 (t, J=7.2 Hz, 1H), 6.98 (t, J=7.2 Hz, 1H), 3.12 (s, 3H). MS=323, 325 (MH)+.

reactant | 8-bromo-2-chloro-[1,2,4]triazolo[1,5-a]pyridine | 1.007 mmol, 234.0 mg | BrC=1C=2N(C=CC1)N=C(N2)Cl | C6H3BrClN3
reactant | 2-methanesulfonyl-phenylamine | CS(=O)(=O)C1=C(C=CC=C1)N | C7H9NO2S
reactant | hydrochloride | 1.059 mmol, 220.0 mg | Cl | ClH
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.1815 mmol, 105.0 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
product | (2-Chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-phenyl)-amine | ClC1=NN2C(C(=CC=C2)NC2=C(C=CC=C2)S(=O)(=O)C)=N1 | C13H11ClN4O2S
